US04743602
A mixture of 2-(5-n-butylthiophen-2-yl)-cyclopropanecarboxylic acid (9.0 g, 0.04 mol) and oxalyl chloride (6.35 g, 0.05 mol) in hexane (70 ml) was stirred at room temperature for 2 hours and then warmed at 60° C. for 3 hours. The hexane and excess oxalyl chloride were removed in vacuo to give 2-(5-n-butylthiophen-2-yl)-cyclopropanecarbonyl chloride (9.7 g, 100%) as a pale yellow liquid which was used in the next stage without further purification.

reactant | 2-(5-n-butylthiophen-2-yl)-cyclopropanecarboxylic acid | 0.04 mol, 9.0 g | C(CCC)C1=CC=C(S1)C1C(C1)C(=O)O | C12H16O2S
reactant | oxalyl chloride | 0.05 mol, 6.35 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | hexane | 70 ml | CCCCCC | C6H14
product | 2-(5-n-butylthiophen-2-yl)-cyclopropanecarbonyl chloride | 9.7 g, 100% | C(CCC)C1=CC=C(S1)C1C(C1)C(=O)Cl | C12H15ClOS
